US09260436B2
A mixture of 156 mg of 1-[2-(2-ethylsulfanylphenyl)-7-trifluoromethylpyrido[3,2-d]pyrimidin-4-yl]-2-tosylhydrazine and 12 ml of ethylene glycol was added to a mixture of 4 ml of an 8% aqueous sodium hydroxide solution and 2 ml of ethylene glycol at 80° C., and the mixture was stirred at 100° C. for 40 minutes. Water was added to the cooled reaction mixture, and the mixture was extracted with t-butyl methyl ether. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The mixture was concentrated under reduced pressure, and the resulting residue was applied to a silica gel column chromatography to obtain 40 mg of 2-(2-ethylsulfanylphenyl)-7-trifluoromethylpyrido[3,2-d]pyrimidine (Compound of Present Invention 18).

reactant | 1-[2-(2-ethylsulfanylphenyl)-7-trifluoromethylpyrido[3,2-d]pyrimidin-4-yl]-2-tosylhydrazine | 156 mg | C(C)SC1=C(C=CC=C1)C=1N=C(C2=C(N1)C=C(C=N2)C(F)(F)F)NNS(=O)(=O)C2=CC=C(C)C=C2 | C23H20F3N5O2S2
reactant | ethylene glycol | 12 ml | C(CO)O | C2H6O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethylene glycol | 2 ml | C(CO)O | C2H6O2
solvent | Water | O | H2O
product | 2-(2-ethylsulfanylphenyl)-7-trifluoromethylpyrido[3,2-d]pyrimidine | 40 mg | C(C)SC1=C(C=CC=C1)C=1N=CC2=C(N1)C=C(C=N2)C(F)(F)F | C16H12F3N3S
